US05532248
17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-benzyloxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (40 mg) in cyclohexane (0.8 ml) and dichloromethane (0.4 ml) was added 2,2,2-benzyltrichloroacetimidate at 0° C. followed by triflic acid. The reaction was allowed to warm to room temperature and stir for 1.5 hours after which time it was poured into saturated aqueous sodium bicarbonate solution and extracted into ethyl acetate. The organic extracts were dried (MgSO4) and concentrated and the crude material was purified by column chromatography on silica gel eluting with 65% hexane:35% ethyl acetate to give the desired product (22 mg).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 40 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(O)C2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C57H91NO13Si
reactant | triflic acid | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | cyclohexane | 0.8 ml | C1CCCCC1 | C6H12
solvent | dichloromethane | 0.4 ml | ClCCl | CH2Cl2
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-benzyloxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 22 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(OCC2=CC=CC=C2)C2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C64H97NO13Si
